US09145414B2
Methyl boronic acid (120 mg), potassium phosphate (849 mg), water (0.30 ml), palladium acetate (22 mg), and 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl biphenyl (95 mg) were added to a solution of methyl 3-chloro-5-methoxy-1-benzothiophene-2-carboxylate (257 mg) in 1,4-dioxane (3.0 ml), and the reaction solution was stirred at 100° C. for 12 hours. The reaction solution was diluted with ethyl acetate and washed successively with an aqueous ammonium chloride solution, an aqueous sodium bicarbonate solution, and a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane-ethyl acetate) to obtain methyl 5-methoxy-3-methylbenzo[b]thiophene-2-carboxylate.

reactant | Methyl boronic acid | 120 mg | CB(O)O | CH5BO2
reactant | potassium phosphate | 849 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl biphenyl | 95 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | methyl 3-chloro-5-methoxy-1-benzothiophene-2-carboxylate | 257 mg | ClC1=C(SC2=C1C=C(C=C2)OC)C(=O)OC | C11H9ClO3S
solvent | 1,4-dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.30 ml | O | H2O
product | methyl 5-methoxy-3-methylbenzo[b]thiophene-2-carboxylate | COC1=CC2=C(SC(=C2C)C(=O)OC)C=C1 | C12H12O3S
